US06713471B1
A solution of 5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine (32.21 g, 0.166 mol) in THF (650 mL) was added dropwise to LAH (1.0M in THF, 166 mL) under N2 such that the temperature did not rise above 27-29° C. Once the addition was complete, the mixture was stirred at room temperature for 1 hr. It was cooled in an ice bath and treated with H2O (7.3 mL) added dropwise, followed by 1N NaOH (32.4 mL). Once at room temperature, the mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was taken up in CH2Cl2 (200 mL) washed with H2O, and dried over MgSO4, and stripped of solvent under reduced pressure to yield 29.42 g (98%) of the crude product. Purification by column chromatography (EtOAc) afforded 17.69 g (59% yield) of 3,4-dihydro-1,5-benzothiazepin-5(2H)-amine as a liquid which was converted to the HCl salt, m.p. 202° C. (decomposition). (M+H)+ 180.

reactant | 5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine | 0.166 mol, 32.21 g | N(=O)N1CCCSC2=C1C=CC=C2 | C9H10N2OS
reactant | LAH | 1.0M, 166 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 7.3 mL | O | H2O
reactant | NaOH | 1N, 32.4 mL | [OH-].[Na+]
solvent | THF | 650 mL | C1CCOC1 | C4H8O
product | 3,4-dihydro-1,5-benzothiazepin-5(2H)-amine | 17.69 g, 59% yield | S1CCCN(C2=C1C=CC=C2)N | C9H12N2S
